US09024027B2
A mixture of benzyl 2-(5-(N-(2-(tert-butoxycarbonyl(2-methoxyethyl)-amino)ethyl)methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate (0.166 g, 0.282 mmol) and 10% w/w Pd/C (a catalytic amount) in MeOH was hydrogenated in a Parr apparatus at 30 psi for 3 hours. The catalyst was filtered off and the filtrate was evaporated to dryness affording 2-(5-(N-(2-(tert-butoxycarbonyl(2-methoxyethyl)amino)ethyl)-methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetic acid (0.138 g, 0.276 mmol, 98% yield, MS/ESI+ 522.0 [MNa]+).

reactant | benzyl 2-(5-(N-(2-(tert-butoxycarbonyl(2-methoxyethyl)-amino)ethyl)methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate | 0.282 mmol, 0.166 g | C(C)(C)(C)OC(=O)N(CCN(S(=O)(=O)C)C=1C=C2C(N(C(C2=CC1)=O)CC(=O)OCC1=CC=CC=C1)=O)CCOC | C28H35N3O9S
solvent | MeOH | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 2-(5-(N-(2-(tert-butoxycarbonyl(2-methoxyethyl)amino)ethyl)-methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetic acid | 0.276 mmol, 0.138 g, 98% yield | C(C)(C)(C)OC(=O)N(CCN(S(=O)(=O)C)C=1C=C2C(N(C(C2=CC1)=O)CC(=O)O)=O)CCOC | C21H29N3O9S
